US07384934B2
(s)-10-[3-(2-Methoxyethyl)-4-methylpiperazin-1-yl]-2-methyl-4H-3-thia-4,9-diazabenzo[f]azulene dihydrochloride
In a manner such as that described in Example 269, using (S)-10-[3-(2-methoxyethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diazabenzo[f]azulene dihydrochloride into the dihydrochloride salt of the title compound (102 mg, 22%): mass Spectrum (ES): m/z 371.2 (M+1 of free base).

reactant | (S)-10-[3-(2-methoxyethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diazabenzo[f]azulene dihydrochloride | Cl.Cl.COCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | (s)-10-[3-(2-Methoxyethyl)-4-methylpiperazin-1-yl]-2-methyl-4H-3-thia-4,9-diazabenzo[f]azulene dihydrochloride | 102 mg, 22% | Cl.Cl.COCC[C@H]1CN(CCN1C)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | InChI=1S/C20H26N4OS.2ClH/c1-14-12-16-19(24-10-9-23(2)15(13-24)8-11-25-3)21-17-6-4-5-7-18(17)22-20(16)26-14;;/h4-7,12,15,22H,8-11,13H2,1-3H3;2*1H/t15-;;/m0../s1
